US06660744B1
Aniline(1.24 mL, 13.62 mmol) was added slowly to a mixture of 4-bromo-2-methoxy-1-benzenecarbonyl chloride (3.24 g, 12.98 mmol) and triethyl amine (2.7 mL, 19.48 mmol) in dichloromethane (130 mL). After 3 hours, solvent was removed under reduced pressure. Ethyl acetate was added and the mixture was filtered. The filtrate was concentrated under reduced pressure and the residue was re-crystallized from ethyl acetate/heptane to give N1-phenyl-4-bromo-2-methoxybenzamide (2.92 g, 74%). 1H NMR (DMSO-d6) δ 3.92 (s, 3H), 7.09 (s, 1H), 7.27 (m, 1H), 7.33 (m, 2H), 7.39 (s, 1H), 7.55 (d, J=8.15 Hz, 1H), 7.71 (m, 2H), 10.10 (s, 1H).

reactant | Aniline | 13.62 mmol, 1.24 mL | NC1=CC=CC=C1 | C6H7N
reactant | 4-bromo-2-methoxy-1-benzenecarbonyl chloride | 12.98 mmol, 3.24 g | BrC1=CC(=C(C=C1)C(=O)Cl)OC | C8H6BrClO2
reactant | triethyl amine | 19.48 mmol, 2.7 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | N1-phenyl-4-bromo-2-methoxybenzamide | 2.92 g, 74% | C1(=CC=CC=C1)NC(C1=C(C=C(C=C1)Br)OC)=O | C14H12BrNO2
